US06320050B1
A solution of triphenylphosphine (168 mg, 0.64 mmol) in methylene chloride (3 mL) was cooled to 0° C. and then slowly treated with N-bromosuccinimide (114 mg, 0.64 mmol). The reaction mixture was stirred at 0° C. for 10 min and then treated with 2-(3-bromo-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid (200 mg, 0.53 mmol). The resulting reaction mixture was stirred at 0° C. for 5 min and then allowed to warm to 25° C. where it was stirred for 25 min. The reaction mixture was then treated with 2-aminothiazole (117 mg, 1.17 mmol). The resulting reaction mixture was stirred at 25° C. for 15 h. The crude reaction mixture was then directly purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 1/1 hexanes/ethyl acetate) to afford 2-(3-bromo-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-thiazol-2-yl-propionamide (214 mg, 88%) as a yellow solid: mp 106-107° C.; EI-HRMS m/e calcd for C18H21BrN2O3S2 (M+) 456.0177, found 456.0175.

reactant | triphenylphosphine | 0.64 mmol, 168 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.64 mmol, 114 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-(3-bromo-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid | 0.53 mmol, 200 mg | BrC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)CC1CCCC1 | C15H19BrO4S
reactant | 2-aminothiazole | 1.17 mmol, 117 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-bromo-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-thiazol-2-yl-propionamide | 214 mg, 88% | BrC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)NC=1SC=CN1)CC1CCCC1 | C18H21BrN2O3S2
